US08404859B2
A mixture of methanesulfonic acid 3-(3-methoxy-phenyl)-propyl ester (1.20 g, 4.912 mmol), 4-Methyl-2-oxo-2,3-dihydro-thiazole-5-carboxylic acid ethyl ester (0.960 g, 5.128 mmol) and cesium carbonate (3.2 hm, 9.82 mmol) in anhydrous DMF was heated to oil bath at 75° C. for 2.5 h. The reaction mixture was cooled, concentrated and diluted with water (50 mL) and extracted with EtOAc (3×50 mL). The organic layers were washed with 2N HCl (30 mL), water ((30 mL), brine (30 mL), dried over magnesium sulphate, filtered and concentrated to give a brown oil. The crude product is purified by flash column chromatography (10%-30% EtOAc in hexane) to give 2-[3-(3-Methoxy-phenyl)-propoxy]-4-methyl-thiazole-5-carboxylic acid ethyl ester (0.84 g, 51%) as a yellow oil. MS m/e 336.4 (M+H+).

reactant | methanesulfonic acid 3-(3-methoxy-phenyl)-propyl ester | 4.912 mmol, 1.20 g | COC=1C=C(C=CC1)CCCOS(=O)(=O)C | C11H16O4S
reactant | 4-Methyl-2-oxo-2,3-dihydro-thiazole-5-carboxylic acid ethyl ester | 5.128 mmol, 0.960 g | C(C)OC(=O)C1=C(NC(S1)=O)C | C7H9NO3S
reactant | cesium carbonate | 9.82 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[3-(3-Methoxy-phenyl)-propoxy]-4-methyl-thiazole-5-carboxylic acid ethyl ester | 0.84 g, 51% | C(C)OC(=O)C1=C(N=C(S1)OCCCC1=CC(=CC=C1)OC)C | C17H21NO4S
